US05554581
Methylamine hydrochloride (1.70 g, 24.8 mmol) and potassium carbonate (1.70 g, 12.3 mmol), and acetonitrile (5 ml) as a solvent were placed into a round bottom flask (100 cc), followed by stirring at room temperature. After confirming the generation of carbon dioxide gas, N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide (5.88 g, 16.2 mmol) was added thereto, followed by stirring at room temperature for 4 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, and the precipitated crystals were isolated by filtration. The crystals were washed with hexane and dried to obtain N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-methyl-3,4,5,6-tetrahydrophthalamide as white crystals (4.79 g, 74.9% yield).

reactant | Methylamine hydrochloride | 24.8 mmol, 1.70 g | Cl.CN
reactant | potassium carbonate | 12.3 mmol, 1.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide | 16.2 mmol, 5.88 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1C(C2=C(C1=O)CCCC2)=O | C19H19ClFNO3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-methyl-3,4,5,6-tetrahydrophthalamide | 4.79 g, 74.9% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(C1=C(C(=O)NC)CCCC1)=O | C20H24ClFN2O3
